US04450164
2-amino-3-(3,4-dichlorobenzyloxy)-pyridine.
8-(3,4-dichlorobenzyloxy)-2-methylimidazo[1,2-a]-pyridine and 8-(4-chlorobenzyloxy)-2-methylimidazo[1,2-a]pyridine.

reactant | 8-(3,4-dichlorobenzyloxy)-2-methylimidazo[1,2-a]-pyridine | ClC=1C=C(COC=2C=3N(C=CC2)C=C(N3)C)C=CC1Cl | C15H12Cl2N2O
reactant | 8-(4-chlorobenzyloxy)-2-methylimidazo[1,2-a]pyridine | ClC1=CC=C(COC=2C=3N(C=CC2)C=C(N3)C)C=C1 | C15H13ClN2O
product | 2-amino-3-(3,4-dichlorobenzyloxy)-pyridine | NC1=NC=CC=C1OCC1=CC(=C(C=C1)Cl)Cl | C12H10Cl2N2O
